US07776910B2
Potassium carbonate (0.98 g, 7.086 mmol) was added to a solution of 4-bromo-2-chlorophenol (0.7 g, 3.374 mmol) and 4-methoxybenzylbromide (0.51 mL, 3.543 mmol) in acetone (20 mL) and the mixture was stirred at room temperature overnight. The solid phase was removed by filtration and the filtrate was evaporated to dryness under reduced pressure. The residue was partitioned between EtOAc and aqueous NaOH (2 M). The organic layer was washed with water and brine; dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 99/1) to give 0.937 g (85% yield) of 4-bromo-2-chloro-1-(4-methoxy-benzyloxy)-benzene as yellow solid.

reactant | Potassium carbonate | 7.086 mmol, 0.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-chlorophenol | 3.374 mmol, 0.7 g | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | 4-methoxybenzylbromide | 3.543 mmol, 0.51 mL | COC1=CC=C(CBr)C=C1 | C8H9BrO
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-bromo-2-chloro-1-(4-methoxy-benzyloxy)-benzene | 0.937 g, 85% yield | BrC1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)Cl | C14H12BrClO2
